US06727264B1
2-METHYL-N-{3-[1-(3-{[(4-METHYLPHENYL)SULFONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
A solution of 4-methylbenzenesulfonyl chloride (16.6 mg, 0.0870 mmol), N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide (26.4 mg, 0.0870 mmol), TEA (10.0 mg, 0.174 mmol) in THF (1.00 mL) was stirred for 12 h at 25° C. The resulting crude mixture was diluted with water (20 mL), the aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic layers were concentrated in vacuo and the residue was purified by preparative TLC using 2.5% of NH3 (2.0 M in methanol) in CH2Cl2 to give the desired product 2-methyl-N-{3-[1-(3-{[(4-methylphenyl)sulfonyl]amino}propyl)-4-piperidinyl]phenyl}propanamide (17.3 mg, 43.6%): 1H NMR (400 MHz, CDCl3) δ 8.19 (s, 1H), 7.53 (s, 1H), 7.41 (s, 1H), 7.32-7.21 (m, 4H), 7.16 (s, 1H), 6.97 (d, 1H, J=7.9 Hz), 3.44 (t, 2H, J=6.3 Hz), 3.15 (d, 2H, J=9.8 Hz), 2.62-2.45 (m, 4H), 2.15 (m, 3H), 2.05 (s, 3H), 1.95-1.71 (m, 5H), 1.26 (d, 6H, J=6.6 Hz); ESMS m/e: 458.2 (M+H)+.

reactant | 4-methylbenzenesulfonyl chloride | 0.0870 mmol, 16.6 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | 0.0870 mmol, 26.4 mg | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-methyl-N-{3-[1-(3-{[(4-methylphenyl)sulfonyl]amino}propyl)-4-piperidinyl]phenyl}propanamide | 17.3 mg, 43.6% | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCNS(=O)(=O)C1=CC=C(C=C1)C)C | C25H35N3O3S
